US07585880B2
methyl 3-(4-{[4-(chloromethyl)benzyl]oxy}-phenyl)propanoate
4-(Chloromethyl)benzyl alcohol (4.68 g), methyl 3-(4-hydroxyphenyl)propanoate (5.40 g) and triphenylphosphine (9.20 g) were dissolved in a mixed solvent of toluene (60 mL)-tetrahydrofuran (30 mL), cooled to 0° C. and diethyl azodicarboxylate (40% toluene solution, 15.2 g) was added dropwise with stirring. After completion of the dropwise addition, the reaction mixture was allowed to warm to room temperature and further stirred for 1 hr. The reaction mixture was concentrated and the residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:19-1:1 in volume ratio) to give the title compound (5.19 g, yield 54%) as colorless crystals.

reactant | 4-(Chloromethyl)benzyl alcohol | 4.68 g | ClCC1=CC=C(CO)C=C1 | C8H9ClO
reactant | methyl 3-(4-hydroxyphenyl)propanoate | 5.40 g | OC1=CC=C(C=C1)CCC(=O)OC | C10H12O3
reactant | triphenylphosphine | 9.20 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 15.2 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | methyl 3-(4-{[4-(chloromethyl)benzyl]oxy}-phenyl)propanoate | 5.19 g, yield 54% | ClCC1=CC=C(COC2=CC=C(C=C2)CCC(=O)OC)C=C1 | C18H19ClO3
